US07488832B2
Preparation of (N-(diaminomethylene)-2,4-diphenyl-1H-pyrrole-1-acetamide)
To a solution of (2,5-diphenyl-pyrrol-1-yl)-acetic acid (1 eq.) in DMF is added CDI (1.2 eq.) and the mixture stirred at RT for 1 hour. Then add a solution of guanidine HCl (3 eq.) and triethylamine (3 eq.) in DMF is added. The reaction is stirred for 5 hours, then water is added and the mixture extracted with EtOAc, dried over MgSO4 and concentrated. The residue is dissolved in a mixture of DMSO, MeOH and water (1.5 mL total) and purified by Gilson preparative HPLC system. See Gilson Preparative HPLC conditions: Gilson Preparative HPLC system; YMC Pro C18, 20 mm×50 mm ID, 5 μM column; 2 mL injection; Solvent A: 0.02% TFA/water; Solvent B: 0.02% TFA/acetonitrile; Gradient: Time 0: 95% A; 2 min: 95% A; 14 min: 10% A, 15 min: 10% A, 16 min: 95% A; Flow rate 22.5 mL/min; Detection: 254 nm DAD.

reactant | (2,5-diphenyl-pyrrol-1-yl)-acetic acid | 1 eq. | C1(=CC=CC=C1)C=1N(C(=CC1)C1=CC=CC=C1)CC(=O)O | C18H15NO2
reactant | CDI | 1.2 eq. | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | guanidine HCl | 3 eq. | Cl.NC(=N)N
reactant | triethylamine | 3 eq. | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | N-(diaminomethylene)-2,4-diphenyl-1H-pyrrole-1-acetamide | NC(=NC(CN1C(=CC(=C1)C1=CC=CC=C1)C1=CC=CC=C1)=O)N | C19H18N4O
